US05451566
4-chloro-1-(2'-chloro-4'-trifluoromethylphenyl)-pyrrolo[3,2-c]pyridine (1.10 g, 33 mmol) and meta-chloroperbenzoic acid (approximately 80-85%, 1.15 g) were stirred together in chloroform (20 ml) at room temperature overnight. A further quantity of meta-chloroperbenzoic acid (1.15 g) was added, and stirring continued for 2 hours. The mixture was diluted with dichloromethane and washed with saturated aqueous sodium carbonate solution. The organic portion was dried over magnesium sulfate, filtered, and the filtrate evaporated in vacuo. The residue was triturated with hexane to give 4-chloro-1-(2'-chloro-4'-trifluoromethylphenyl)-pyrrolo[3,2-c]-pyridine 5-oxide (0.69 g) as a tan solid, m.p. 119°-123° C. (with dec.)

reactant | 4-chloro-1-(2'-chloro-4'-trifluoromethylphenyl)-pyrrolo[3,2-c]pyridine | 33 mmol, 1.10 g | ClC1=NC=CC2=C1C=CN2C2=C(C=C(C=C2)C(F)(F)F)Cl | C14H7Cl2F3N2
reactant | meta-chloroperbenzoic acid | 1.15 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | meta-chloroperbenzoic acid | 1.15 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
solvent | dichloromethane | ClCCl | CH2Cl2
product | 4-chloro-1-(2'-chloro-4'-trifluoromethylphenyl)-pyrrolo[3,2-c]-pyridine 5-oxide | 0.69 g | ClC1=[N+](C=CC2=C1C=CN2C2=C(C=C(C=C2)C(F)(F)F)Cl)[O-] | C14H7Cl2F3N2O
